* Extracted by KLayout with SG13G2 LVS runset on : 24/07/2026 09:41

.SUBCKT ILFD_77G_XTOR
Q$1 \$67 \$67 \$50 \$1 npn13G2l we=70n le=1000n Nx=1 m=2
Q$3 \$50 \$51 \$54 \$1 npn13G2l we=70n le=1000n Nx=1 m=2
Q$4 \$48 \$49 \$54 \$1 npn13G2l we=70n le=1000n Nx=1 m=2
Q$5 \$67 \$67 \$48 \$1 npn13G2l we=70n le=1000n Nx=1 m=2
R$9 \$35 \$36 \$1 rppd w=0.5u l=0.5u ps=0u b=0 m=1
.ENDS ILFD_77G_XTOR
